US07932259B2
To a mixture of 1-(4-chloro-2,6-dimethylphenyl)-3,6-dimethyl-1H-pyrrolo[2,3-b]pyridin-4-ol (14.4 g) and triethylamine (9.7 g) in CHCl3 (100 mL) was added trifluoromethansulfonic anhydride (9.7 mL) in an ice-cooling bath. After stirring for 10 minutes, water was added and extracted with CHCl3. The organic layer was washed with water and brine successively, dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated under reduced pressure to give crude trifluoromethanesulfonic acid 1-(4-chloro-2,6-dimethylphenyl)-3,6-dimethyl-1H-pyrrolo[2,3-b]pyridin-4-yl ester (20.7 g).

reactant | 1-(4-chloro-2,6-dimethylphenyl)-3,6-dimethyl-1H-pyrrolo[2,3-b]pyridin-4-ol | 14.4 g | ClC1=CC(=C(C(=C1)C)N1C=C(C2=C1N=C(C=C2O)C)C)C | C17H17ClN2O
reactant | triethylamine | 9.7 g | C(C)N(CC)CC | C6H15N
reactant | trifluoromethansulfonic anhydride | 9.7 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | water | O | H2O
solvent | CHCl3 | 100 mL | C(Cl)(Cl)Cl | CHCl3
product | trifluoromethanesulfonic acid 1-(4-chloro-2,6-dimethylphenyl)-3,6-dimethyl-1H-pyrrolo[2,3-b]pyridin-4-yl ester | 20.7 g | ClC1=CC(=C(C(=C1)C)N1C=C(C=2C1=NC(=CC2OS(=O)(=O)C(F)(F)F)C)C)C | C18H16ClF3N2O3S
